US08420823B2
N-(5-bromo-3-methoxypyridin-2-yl)-3-(piperidin-1-ylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 92 but using 3-(piperidin-1-ylsulfonyl)benzoic acid and 5-bromo-3-methoxypyridine-2-amine as the starting materials.

reactant | 3-(piperidin-1-ylsulfonyl)benzoic acid | N1(CCCCC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C12H15NO4S
reactant | 5-bromo-3-methoxypyridine-2-amine | BrC=1C=C(C(=NC1)N)OC | C6H7BrN2O
product | N-(5-bromo-3-methoxypyridin-2-yl)-3-(piperidin-1-ylsulfonyl)benzamide | BrC=1C=C(C(=NC1)NC(C1=CC(=CC=C1)S(=O)(=O)N1CCCCC1)=O)OC | C18H20BrN3O4S
